US06903085B1
Step iii: N-[1-(4-Chloro-3-fluorobenzyl)-4-piperidinyl]-3-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]propanamide
3-[3-(2-Pyridinyl)-1,2,4-oxadiazol-5-yl]propanoic acid (0.136 g) and N,N′-carbonyldiimidazole (0.114 g) were stirred in dichloromethane (10 ml) under nitrogen for 1 hour. 1-(4-Chloro-3-fluorobenzyl)-4-piperidinamine (0.150 g) was then added and left to stir for 2 hours. Saturated sodium hydrogen carbonate was added to the reaction, with the resulting solution being extracted three times with dichloromethane. The pooled organic phases were washed once with water, once with brine, dried over magnesium sulfate, filtered and the solvent removed under reduced pressure to leave an oil. This was triturated with diethyl ether which caused product the to crystallise. After filtration, the product was washed with diethyl ether and dried to N-[1-(4-chloro-3-fluorobenzyl)-4-piperidinyl]-3-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]propanamide. m.p. 132° C.

reactant | 3-[3-(2-Pyridinyl)-1,2,4-oxadiazol-5-yl]propanoic acid | 0.136 g | N1=C(C=CC=C1)C1=NOC(=N1)CCC(=O)O | C10H9N3O3
reactant | 1-(4-Chloro-3-fluorobenzyl)-4-piperidinamine | 0.150 g | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)F | C12H16ClFN2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[1-(4-Chloro-3-fluorobenzyl)-4-piperidinyl]-3-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]propanamide | ClC1=C(C=C(CN2CCC(CC2)NC(CCC2=NC(=NO2)C2=NC=CC=C2)=O)C=C1)F | C22H23ClFN5O2
